* gnetlist -g spice-sdb -o analog_only.net analog_only.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from 2n3904.model vvvvvvvv
.model Q2N3904	NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+		Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+		Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+		Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*^^^^^^^^  End of included SPICE model from 2n3904.model ^^^^^^^^
*
* model from http://focus.ti.com/docs/prod/folders/print/tl082.html
* TL082 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL082    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS

*==============  Begin SPICE netlist of main design ============
V1 Vdd 0 13V
R7 7 6 47k  
R6 5 Vcc 1M  
R5 6 9 12k  
R4 3 Vcc 1M  
C3 4 9 .47u  
C2 1 3 .47u  
R3 8 Vdd 100k  
R2 0 8 100k  
C1 8 0 4.7u  
* Stupid gnetlist. Stupid preston. Someone's or something's stupid.
*X1 Vcc Vcc 8 0 Vdd tl082
*X3 7 6 5 0 Vdd tl082
*X2 4 4 3 0 Vdd tl082
* virt. gnd
X1 8 Vcc Vdd 0 Vcc tl082
* buffer
X2 3 4 Vdd 0 4 tl082
* amp
X3 5 6 Vdd 0 7 tl082
R1 1 Vdd 150k  
Q1 unconnected_pin-1 2 1 Q2N3904 
Q2 1 2 0 Q2N3904 

.op
.tran 0.1m .5m 0m 1u

* v(7) is output after last op-amp. Run this command in ngspice to get plot:
* plot v(7)

.end
